US07205325B2
1-[4-(4-{2-[2-(4-Trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole
MS: M=304.2(API+). 1H-NMR(400 MHz, D6-DMSO): δ=4.71(s, 2H, CH2Cl), 7.21(d, 1H, ═CH), 7.40(d, 2H, Ar—H), 7.58(d, 1H, ═CH), 7.87(d, 2H, Ar—H), 8.19(s, 1H, oxazole). 0.304 g (1.00 mmol) 4-Chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole, 0.217 g (1.00 mmol) 4-(4-[1,2,3]Triazol-1-yl-butyl)-phenol, 0.166 g (1.00 mmol) potassium iodide and 0.191 ml (1.00 mmol) of a 30% sodium methylate solution were added to 50.0 ml methanol and heated to reflux for 8 h. After removal of solvent, partitioning of the residue between 50 ml ethyl acetate and 15 ml water, the organic phase was washed with 10 ml water, 10 ml 0.1 N NaOH, 15 ml water twice and dried over sodium sulphate. The solution was concentrated until crystallisation of the product started. After leaving for 1 h at room temperature the precipitate was isolated, washed with ether and dried at 40° C. in vacuo. Yield 0.16 g (32%) 2, m.p. 138–140° C.

reactant | 4-Chloromethyl-2-[2-(4-trifluoromethoxy-phenyl)-vinyl]-oxazole | 1.00 mmol, 0.304 g | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC(F)(F)F | C13H9ClF3NO2
reactant | 4-(4-[1,2,3]Triazol-1-yl-butyl)-phenol | 1.00 mmol, 0.217 g | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | potassium iodide | 1.00 mmol, 0.166 g | [I-].[K+]
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 50.0 ml | CO | CH4O
product | 1-[4-(4-{2-[2-(4-Trifluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1H-[1,2,3]triazole | FC(OC1=CC=C(C=C1)C=CC=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1N=NC=C1)(F)F | C25H23F3N4O3
